US08278341B2
2-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N,N-trimethylethanaminium iodide
To a solution of 2-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine (14 mg) in dichloromethane (8 mL) was added MeI (1.0 mL) at RT under Ar. The resultant solution was stirred overnight and the solid formed. The solid was collected by filtration and washed once with dichloromethane and dried under vacuum to give the title compound (12 mg, 62%). 1H NMR (400 MHz, CD3OD) δ ppm 8.51 (s, 1H), 7.84 (dd, J=9.2, 2.8 Hz, 2H), 7.44 (dd, J=8.8, 4.0 Hz, 2H), 7.12 (ddd, J=9.2, 9.6, 2.4 Hz, 2H), 4.75-4.68 (m, 2H), 4.12-4.07 (m, 2H), 3.46 (s, 9H); MS (ESI) e/z 394 (M−I)+.

reactant | 2-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N-dimethylethanamine | 14 mg | FC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OCCN(C)C)NC=1C=CC(=CC14)F | C22H19F2N3O
reactant | MeI | 1.0 mL | CI | CH3I
solvent | dichloromethane | 8 mL | ClCCl | CH2Cl2
product | 2-(2,10-difluoro-5,7-dihydroindolo[2,3-b]carbazol-6-yloxy)-N,N,N-trimethylethanaminium iodide | 12 mg, 62% | [I-].FC=1C=C2C=3C=C4C(=C(C3NC2=CC1)OCC[N+](C)(C)C)NC=1C=CC(=CC14)F | InChI=1S/C23H22F2N3O.HI/c1-28(2,3)8-9-29-23-21-17(15-10-13(24)4-6-19(15)26-21)12-18-16-11-14(25)5-7-20(16)27-22(18)23;/h4-7,10-12,26-27H,8-9H2,1-3H3;1H/q+1;/p-1
